US05166367
7-[3-[[(2,3-Dihydro-6,8-dimethoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one
2,3-Dihydro-6,8-dimethoxy-1,4-benzodioxin-2-methanamine hydrochloride (3.58 g, 13.7 mmole), 7-(3-bromopropoxy)coumarin (3.35 g, 11.8 mmole), and diisopropylethylamine (3.25 ml, 18.7 mmole) were combined in 200 ml of DMF and heated at 96° C. for 2 days under a nitrogen atmosphere. The solvent was then removed and replaced with dichloromethane. The mixture was washed with an equal volume of saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered and concentrated in vacuum. The residue was column chromatographed on 300 g of silica gel using first dichloromethane and then 1% methanol/dichloromethane as eluant. The product-containing fractions were combined and concentrated in vacuum and the free base thus obtained redissolved in methanol and 7 ml of 4N isopropanolic HCl added. The mixture was brought to a boil on a hot plate and the solvent gradually replaced with isopropanol. Upon cooling, 0.87 g of the title compound (m.p. 184°-187° C.) precipitated as a white solid, monohydrochloride.

reactant | 2,3-Dihydro-6,8-dimethoxy-1,4-benzodioxin-2-methanamine hydrochloride | 13.7 mmole, 3.58 g | Cl.COC1=CC2=C(OC(CO2)CN)C(=C1)OC
reactant | 7-(3-bromopropoxy)coumarin | 11.8 mmole, 3.35 g | BrCCCOC1=CC=C2C=CC(OC2=C1)=O | C12H11BrO3
reactant | diisopropylethylamine | 18.7 mmole, 3.25 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HCl | 4N, 7 ml | Cl | ClH
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 7-[3-[[(2,3-Dihydro-6,8-dimethoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one | COC1=CC2=C(OC(CO2)CNCCCOC2=CC3=C(C=CC(O3)=O)C=C2)C(=C1)OC | C23H25NO7
